US04187306
18.9 g (0.05 mol) of 2-chloromethyl-3-(2-ethoxycarbonylphenyl)-6-chloro-4H-quinazolin-4-one and 50 ml of liquid ammonia in 150 ml of ethylene glycol monoethyl ether are heated to 60° C. for 3 hours in an autoclave. After cooling the mixture, the colourless crystals are filtered off and washed several times with methanol. 13 g (83% of theory) of 11-chloro-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione are obtained.

reactant | 2-chloromethyl-3-(2-ethoxycarbonylphenyl)-6-chloro-4H-quinazolin-4-one | 0.05 mol, 18.9 g | ClCC1=NC2=CC=C(C=C2C(N1C1=C(C=CC=C1)C(=O)OCC)=O)Cl | C18H14Cl2N2O3
reactant | ammonia | N | H3N
solvent | ethylene glycol monoethyl ether | 150 ml | C(C)OCCO | C4H10O2
product | 11-chloro-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione | 13 g, 83% | ClC1=CC=2C(N3C(CNC(C4=C3C=CC=C4)=O)=NC2C=C1)=O | C16H10ClN3O2
